US07291631B2
{4-[(3-isopropyl-pyridin-2-ylmethyl)-amino]-butyl}-carbamic acid tert-butyl ester
A pale yellow oil prepared from (4-amino-butyl)-carbamic acid tert-butyl ester and 3-isopropyl-pyridine-2-carbaldehyde. 1H NMR (CDCl3) δ 1.23 (d, 6H, J=6.6 Hz), 1.43 (s, 9H), 1.53-1.61 (m, 4H), 2.67-2.74 (m, 2H), 3.10-3.21 (m, 3H), 3.94 (s, 2H), 4.73 (s, br. 1H), 7.11-7.17 (m, 1H), 7.54-7.58 (m, 1H), 8.37-7.40 (m, 1H).

reactant | (4-amino-butyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCCN)=O | C9H20N2O2
reactant | 3-isopropyl-pyridine-2-carbaldehyde | C(C)(C)C=1C(=NC=CC1)C=O | C9H11NO
product | {4-[(3-isopropyl-pyridin-2-ylmethyl)-amino]-butyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCCNCC1=NC=CC=C1C(C)C)=O | C18H31N3O2
